US05767131
2,2-Dimethyl-5-(1-oxoheptyl)-1,3-dioxane-4,6-dione.
Carbonyldiimidazole (71.7 g, 0.442 mol) was added portionwise to a stirred solution of heptanoic acid (0.402 mol) in 300 mL of dry dichloromethane. The resulting mixture was stirred at room temperature for 2 hours. A solution of pyridine (35.8 mL, 0.442 mol) and Meldrum's acid (63.7 g, 0.442 mol) in 150 mL of dry dichloromethane were added over a period of 2 hours to the reaction mixture. The reaction mixture was stirred for 16 hours, quenched with 400 mL of 2N HCl (bubbling), separated, washed sequentially with 2×400 mL 2N HCl, brine (400 mL), dried (MgSO4), and the solvent was removed in vacuo to give the title compound as aviscous oil. The crude product was used in the next step after spectral characterization.

reactant | Carbonyldiimidazole | 0.442 mol, 71.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | heptanoic acid | 0.402 mol | C(CCCCCC)(=O)O | C7H14O2
reactant | pyridine | 0.442 mol, 35.8 mL | N1=CC=CC=C1 | C5H5N
reactant | Meldrum's acid | 0.442 mol, 63.7 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2,2-Dimethyl-5-(1-oxoheptyl)-1,3-dioxane-4,6-dione | CC1(OC(C(C(O1)=O)C(CCCCCC)=O)=O)C | C13H20O5
